US07705053B2
Production of 3-N-(2,4-dibromophenyl)-4-methoxyisophthalamide (Compound 1-3-45)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 2,4-dibromoaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 2,4-dibromoaniline | BrC1=C(N)C=CC(=C1)Br | C6H5Br2N
product | 3-N-(2,4-dibromophenyl)-4-methoxyisophthalamide | BrC1=C(C=CC(=C1)Br)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C15H12Br2N2O3
